US07049438B2
Using an analogous procedure to that described in the last paragraph of Note [22] immediately above, 7-acetoxy-4-(2,4-dichloro-5-methoxyanilino)-5-tetrahydropyran-4-yloxyquinazoline was reacted with a saturated methanolic ammonia solution to give 4-(2,4-dichloro-5-methoxyanilino)-7-hydroxy-5-tetrahydropyran-4-yloxyquinazoline; NMR Spectrum: (DMSOd6) 1.75–1.9 (m, 2H), 2.18 (d, 2H), 3.52 (t, 2H), 3.9 (s, 3H), 3.95 (m, 2H), 4.95 (m, 1H), 6.7 (d, 1H), 6.82 (d, 1H), 7.7 (s, 1H), 8.35 (s, 1H), 8.42 (s, 1H), 9.85 (s, 1H), 10.5–10.7 (br s, 1H); Mass Spectrum: M+H+ 436 and 438.

reactant | 7-acetoxy-4-(2,4-dichloro-5-methoxyanilino)-5-tetrahydropyran-4-yloxyquinazoline | C(C)(=O)OC1=CC(=C2C(=NC=NC2=C1)NC1=C(C=C(C(=C1)OC)Cl)Cl)OC1CCOCC1 | C22H21Cl2N3O5
reactant | ammonia | N | H3N
product | 4-(2,4-dichloro-5-methoxyanilino)-7-hydroxy-5-tetrahydropyran-4-yloxyquinazoline | ClC1=C(NC2=NC=NC3=CC(=CC(=C23)OC2CCOCC2)O)C=C(C(=C1)Cl)OC | C20H19Cl2N3O4
